US09326515B2
To a solution of (2Z)-(hydroxyimino)(phenyl)acetonitrile (7.3 g, 49.95 mmol, 1 eq.) in 280 ml of acetonitrile and 30 ml of DMF, was added 4-(chloromethyl)-1,3-thiazol-2-amine hydrochloride (11.09 g, 59.94 mmol, 1.2 eq.) followed by potassium iodide (829 mg, 4.99 mmol, 0.1 eq.) and caesium carbonate (39.06 g, 119.88 mmol, 2.4 eq.). The reaction was stirred overnight at room temperature. The solvent was then evaporated and the residue dissolved in EtOAc, subsequently washed with H2O and brine. Ater separation, the organic phase was dried over MgSO4 then concentrated. The residue was purified by chromatography on silica gel to give (2Z)-{[(2-amino-1,3-thiazol-4-yl)methoxy]imino}(phenyl)acetonitrile (10.30 g, 80% yield, only 1 oxime isomer).

reactant | (2Z)-(hydroxyimino)(phenyl)acetonitrile | 49.95 mmol, 7.3 g, 1 eq. | O\N=C(/C#N)\C1=CC=CC=C1 | C8H6N2O
reactant | 4-(chloromethyl)-1,3-thiazol-2-amine hydrochloride | 59.94 mmol, 11.09 g, 1.2 eq. | Cl.ClCC=1N=C(SC1)N
reactant | potassium iodide | 4.99 mmol, 829 mg, 0.1 eq. | [I-].[K+]
reactant | caesium carbonate | 119.88 mmol, 39.06 g, 2.4 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 280 ml | C(C)#N | C2H3N
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | (2Z)-{[(2-amino-1,3-thiazol-4-yl)methoxy]imino}(phenyl)acetonitrile | 80% yield | NC=1SC=C(N1)CO\N=C(/C#N)\C1=CC=CC=C1 | C12H10N4OS
